US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-dimethylaminophenyl)[(4-dimethylaminophenyl)methyl]amine (1.05 g) and 2,6-diisopropylphenyl isocyanate (1.03 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-dimethylaminophenyl)-N-[(4-dimethylaminophenyl)methyl]urea (0.815 g) was obtained.

reactant | (4-dimethylaminophenyl)[(4-dimethylaminophenyl)methyl]amine | 1.05 g | CN(C1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C)C | C17H23N3
reactant | 2,6-diisopropylphenyl isocyanate | 1.03 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-dimethylaminophenyl)-N-[(4-dimethylaminophenyl)methyl]urea | 0.815 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)=O | C30H40N4O
